US08486970B2
To a solution of 1.48 g of tert-butyl(2S)-2-(3-formylphenoxy)propanoate in methanol (30 mL) was added 0.48 g of sodium borohydride under ice-cooling, followed by stirring for 1 hour. The reaction solution was diluted with ethyl acetate, added with water, neutralized with 1 M hydrochloric acid, and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 1.38 g of tert-butyl(2S)-2-[3-(hydroxymethyl)phenoxy]propanoate as a colorless oily substance.

reactant | tert-butyl(2S)-2-(3-formylphenoxy)propanoate | 1.48 g | C(=O)C=1C=C(O[C@H](C(=O)OC(C)(C)C)C)C=CC1 | C14H18O4
reactant | sodium borohydride | 0.48 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl(2S)-2-[3-(hydroxymethyl)phenoxy]propanoate | 1.38 g | OCC=1C=C(O[C@H](C(=O)OC(C)(C)C)C)C=CC1 | C14H20O4
